US05093370
1,4-Bis(4-diethylaminobutyl)benzene
First, 1.05 g of 1,4-bis(4-bromobutyl)benzene and 1.1 g of diethylamine were dissolved in absolute ethanol, and the mixture was refluxed for an hour and then evaporated under a reduced pressure to remove the solvent. After adding chloroform, the mixture was evaporated under a reduced pressure. After adding ethyl acetate the mixture was extracted with 15 ml of 1N hydrochloric acid. The aqueous extract was alkalized with 10% sodium hydroxide, and extracted with total 70 ml of chloroform. The organic extract was washed with water and a saturated sodium chloride aqueous solution, dried over magnesium sulfate, and evaporated under a reduced pressure to obtain 0.70 g of the title compound as a colorless liquid.

reactant | 1,4-bis(4-bromobutyl)benzene | 1.05 g | BrCCCCC1=CC=C(C=C1)CCCCBr | C14H20Br2
reactant | diethylamine | 1.1 g | C(C)NCC | C4H11N
solvent | ethanol | C(C)O | C2H6O
product | 1,4-Bis(4-diethylaminobutyl)benzene | 0.70 g | C(C)N(CCCCC1=CC=C(C=C1)CCCCN(CC)CC)CC | C22H40N2
